US07109148B2
To a mixture of 0.5 g of iron powder, 1.5 ml of acetic acid, and 0.15 ml of water was added dropwise a solution of 0.41 g of 3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-2-(methoxycarbonyl)methylthiopyridine in 1 ml of acetic acid, while the temperature of the reaction mixture was kept at 35° C. or lower. After completion of the dropwise addition, the reaction mixture was stirred for 2 hours and then filtered through Celite. The filtrate was diluted with ethyl acetate. The mixture was neutralized with saturated aqueous sodium bicarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.36 g of 3-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methylthiopyridine.

reactant | water | 0.15 ml | O | H2O
reactant | 3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-2-(methoxycarbonyl)methylthiopyridine | 0.41 g | FC1=CC(=C(OC=2C(=NC=CC2)SCC(=O)OC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C20H14F4N4O7S
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 0.5 g | [Fe] | Fe
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 3-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methylthiopyridine | 0.36 g | NC1=C(OC=2C(=NC=CC2)SCC(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H16F4N4O5S
